* sg13g2-bandgap -- bandgap_startup PVT testbench (issue #22)
* Generated from sim/startup-trip-point/testbench/tb_startup_trip_point.spice.tmpl
* by sim/startup-trip-point/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run the
* sweep. Full rationale is in sim/startup-trip-point/README.md.
*
* Generated for: corner=sf temp=-40C vdd=3.63V
* DUT git sha (design/netlist/bandgap_startup.spice this was copied from):
*   60f50a7
* PDK: ihp-sg13g2 /Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* Every device in design/netlist/bandgap_startup.spice is OSDI-gated -- the
* two sg13_hv_nmos switches need psp103.osdi and the rhigh pull-up needs
* r3_cmc.osdi -- so before issue #22 this netlist could not be simulated at
* all, in any form, in this environment. All three DUT devices below are
* copied verbatim from that netlist: same instance names, same node names,
* same W/L.

.lib "/Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_sf
.lib "/Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=-40 tnom=27

Vvdd vdd 0 dc 3.63
Vvss vss 0 dc 0
* bandgap_startup.spice wires the rhigh bulk terminal to the global
* substrate net `sub!`; tied to vss through a 0 V source here, as in
* sim/core-open-loop-bias.
Vsub sub! vss dc 0

* FIXTURE 1 -- sns1 stimulus. In the assembled block, sns1 is the bandgap
* core's own sense node (bandgap_core.spice's XQ1 collector/base). Here it
* is driven by a source so the startup circuit's response can be swept from
* "core is dead" (sns1 = 0) to "core is up" (sns1 = vdd) in one analysis.
Vsns1 sns1 vss dc 0

* FIXTURE 2 -- fb load. fb is the PMOS mirror gate; nothing drives it high
* in the design yet (no error amplifier -- issue #9's scope cut), so an
* undriven fb is a floating node once XMKFB turns off. This 10 Mohm
* pull-up stands in for whatever eventually holds fb high, and is weak
* enough (<= 0.4 uA) that it does not contest XMKFB's pull-down: see the
* fb_on column of this experiment's records.
Rfbpu vdd fb 10meg

XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1
XMKFB fb det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1

.control
pre_osdi /Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/GitHub/klayout-tools/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
* 1) cold-start state: core dead (sns1 = 0), startup must be engaged.
op
print v(det) v(fb)
* 2) disengage behaviour: sweep the core's sense node up and find where the
*    detect node releases, plus the fully-running-core end state.
dc Vsns1 0 3.63 0.005
meas dc vtrip when v(det)=1.8150 cross=1
meas dc det_off find v(det) at=3.5800
meas dc fb_off find v(fb) at=3.5800
.endc
.end
